US07696227B2
Preparation of N,N-Dimethyl-6-((E)-2-(2,5-dimethyl-1-phenyl-1H-pyrrol-3-yl)vinyl)naphthalen-2-amine (11)
Dry DMF (10 mL) was added by syringe to the mixture of 6-bromo-N,N-dimethylnaphthalen-2-amine (200 mg, 0.8 mmol), 2,5-dimethyl-1-phenyl-3-vinyl-1H-pyrrole (236 mg, 1.2 mmol), Na2CO3 (254 mg, 2.4 mmol), n-Bu4NCl (224 mg, 0.8 mmol) and Pd(OAc)2 (8 mg, 0.33 mmol). The reaction mixture was stirred at 100° C. for 3 hrs, then quenched with water (20 mL) and extracted with EtOAc. The organic layer was washed with brine and dried over anhydrous Na2SO4. After purified by column chromatography (hexane/EtOAc=500:1), the target compound was obtained as brown yellow solid (50 mg, 17%). MS [M+]=366, LC-MS: tR=3.28 min.

reactant | 6-bromo-N,N-dimethylnaphthalen-2-amine | 0.8 mmol, 200 mg | BrC=1C=C2C=CC(=CC2=CC1)N(C)C | C12H12BrN
reactant | 2,5-dimethyl-1-phenyl-3-vinyl-1H-pyrrole | 1.2 mmol, 236 mg | CC=1N(C(=CC1C=C)C)C1=CC=CC=C1 | C14H15N
reactant | Na2CO3 | 2.4 mmol, 254 mg | C(=O)([O-])[O-].[Na+].[Na+]
catalyst | n-Bu4NCl | 0.8 mmol, 224 mg | [N+](CCCC)(CCCC)(CCCC)CCCC.[Cl-]
catalyst | Pd(OAc)2 | 0.33 mmol, 8 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | N,N-Dimethyl-6-((E)-2-(2,5-dimethyl-1-phenyl-1H-pyrrol-3-yl)vinyl)naphthalen-2-amine | 50 mg, 17% | CN(C1=CC2=CC=C(C=C2C=C1)\C=C\C1=C(N(C(=C1)C)C1=CC=CC=C1)C)C | C26H26N2
